US09388161B2
A 100-mL round-bottom flask was charged with 3,3-diethoxypropanenitrile (0.600 g, 4.19 mmol), cyclopropylhydrazine di-hydrochloride (0.610 g, 4.21 mmol) and ethanol (20 mL), and the resulting solution stirred for 18 h at 80° C. The reaction mixture was cooled to room temperature and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 10:1, dichloromethane/methanol) to afford 1-cyclopropyl-1H-pyrazol-5-amine (0.206 g, 36%) as light yellow oil. MS (ESI, pos. ion) m/z 124 [M+H]+.

reactant | 3,3-diethoxypropanenitrile | 4.19 mmol, 0.600 g | C(C)OC(CC#N)OCC | C7H13NO2
reactant | cyclopropylhydrazine di-hydrochloride | 4.21 mmol, 0.610 g | Cl.Cl.C1(CC1)NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-cyclopropyl-1H-pyrazol-5-amine | 0.206 g, 36% | C1(CC1)N1N=CC=C1N | C6H9N3
